US09388173B2
Step 1: N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (1.1 g, 4.95 mmol) and tetrahydro-2H-pyran-4-amine (500 mg, 4.95 mmol) in DMF (6 mL) was added K2CO3 (1.37 g, 9.9 mmol) and the mixture stirred in sealed tube at 85° C. for 16 h. After cooling, water (100 mL) was added to the mixture and extracted with DCM (3×50 mL). The combined organic layers were washed with water (2×50 mL), brine (50 mL) and dried over anhydrous Na2SO4 then filtered and concentrated to yield the title compound which was directly used for next step without further purification.

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 4.95 mmol, 1.1 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | tetrahydro-2H-pyran-4-amine | 4.95 mmol, 500 mg | O1CCC(CC1)N | C5H11NO
reactant | K2CO3 | 9.9 mmol, 1.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine | BrC=1C=CC(=C(C1)NC1CCOCC1)[N+](=O)[O-] | C11H13BrN2O3
